US04282245
A mixture of 0.4 g of 2-(8-chloro-10,11-dihydro-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide, 6.0 g of sodium hydroxide, 50 ml of water and 60 ml of methanol was refluxed for 3 hours. The solvent was removed by distillation to obtain a residue, to which was added ice water, and the mixture was acidified with hydrochloric acid and extracted with chloroform. The extract was washed with water and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a residue, which was crystallized from benzene--n-hexane to give 190 mg (yield: 47%) of 2-(8-chloro-10,11-dihydro-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid as a powder having a melting point of 195°-196° C.

reactant | 2-(8-chloro-10,11-dihydro-11-oxodibenzo[b,f]thiepin-2-yl)-propionamide | 0.4 g | ClC=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)N)C)=O)C1 | C17H14ClNO2S
reactant | sodium hydroxide | 6.0 g | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | methanol | 60 ml | CO | CH4O
product | 2-(8-chloro-10,11-dihydro-11-oxodibenzo[b,f]thiepin-2-yl)-propionic acid | 190 mg, yield: 47% | ClC=1C=CC2=C(CC(C3=C(S2)C=CC(=C3)C(C(=O)O)C)=O)C1 | C17H13ClO3S
